US06333349B1
2 g of tetrabutylammonium fluoride were added with stirring to a mixture of 6 g of 4,5-epoxy-7-nitro-2,3,4,5-tetrahydro-1-benzoxepine and 9.5 g of N-methyl-N-trimethylsilylethanesulfonamide. The reaction mixture was then heated for 3 h at 65° C., stirred overnight at RT and poured onto ammonium chloride solution. It was extracted several times with EA, and the organic phase was washed with water and dried over sodium sulfate. After concentration and recrystallization of the solid residue from isopropanol, 7.1 g of trans-7-nitro-5-(N-ethylsulfonyl-N-methylamino)-2,3,4,5-tetrahydro-1-benzoxepin-4-ol were obtained, m.p. 133-135° C.

reactant | tetrabutylammonium fluoride | 2 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 4,5-epoxy-7-nitro-2,3,4,5-tetrahydro-1-benzoxepine | 6 g | O1C2CCOC3=C(C21)C=C(C=C3)[N+](=O)[O-] | C10H9NO4
reactant | N-methyl-N-trimethylsilylethanesulfonamide | 9.5 g | CN(S(=O)(=O)CC)[Si](C)(C)C | C6H17NO2SSi
product | trans-7-nitro-5-(N-ethylsulfonyl-N-methylamino)-2,3,4,5-tetrahydro-1-benzoxepin-4-ol | 7.1 g | [N+](=O)([O-])C=1C=CC2=C([C@H]([C@@H](CCO2)O)N(C)S(=O)(=O)CC)C1 | C13H18N2O6S
